US06710056B2
2-Aminobenzothiazole-6-carboxylic acid hydrochloride:
500 mg of ethyl 2-aminobenzothiazole-6-carboxylate (Maybridge Co., UK) was stirred in 20 ml of 4 M hydrochloric acid at 80° C. for 5 hours. The solvent was evaporated, and the residue was washed with a solvent mixture of ethyl acetate/hexane to obtain the title compound.

reactant | ethyl 2-aminobenzothiazole-6-carboxylate | 500 mg | NC=1SC2=C(N1)C=CC(=C2)C(=O)OCC | C10H10N2O2S
reactant | hydrochloric acid | 4 M, 20 ml | Cl | ClH
product | 2-Aminobenzothiazole-6-carboxylic acid hydrochloride | Cl.NC=1SC2=C(N1)C=CC(=C2)C(=O)O | InChI=1S/C8H6N2O2S.ClH/c9-8-10-5-2-1-4(7(11)12)3-6(5)13-8;/h1-3H,(H2,9,10)(H,11,12);1H
